US06030972
Boc-N-Cyclopropylglycine was prepared from N-cyclopropylglycine ethyl ester, ethyl bromoacetate and cyclopropylamine (similar to J. W. Skiles et al., J. Med. Chem. 35 (1992) 641) and then converted under standard conditions into the Boc-protected form, then hydrolyzed with MeOH/2N NaOH and finally acidified with 1N HCl.

reactant | N-cyclopropylglycine ethyl ester | C(C)OC(CNC1CC1)=O | C7H13NO2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | HCl | 1N | Cl | ClH
reactant | MeOH | 2N | CO | CH4O
product | Boc-N-Cyclopropylglycine | C(=O)(OC(C)(C)C)N(CC(=O)O)C1CC1 | C10H17NO4
